US07297686B2
Preparation and Purification of a Chromium-Cysteine-ATP Complex
Equimolar amounts of chromium chloride hexahydrate, cysteine, and ATP (10 mM each) were mixed in 50 ml of water at a pH of around 3. The mixture was then incubated at room temperature for 1-2 hours to form the chromium-cysteine-ATP complex. This complex was purified by loading 50 ml of the 10 mM chromium-cysteine-ATP mixture onto a SE53 ion-exchange column having a bed volume of approximately 30 ml. The loaded column was washed with 100 ml of water in order to wash off unbound materials. The bound chromium complex was then eluted with 0.25 M ammonium hydroxide. The eluted fractions (4 ml/fraction) were monitored with a UV spectrophotometer for absorption at wavelengths A260 and A280. An example of the eluting profile is shown in FIG. 1.

reactant | chromium chloride hexahydrate | O.O.O.O.O.O.[Cl-].[Cr+3].[Cl-].[Cl-]
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | ATP | 10 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
solvent | water | 50 ml | O | H2O
product | Chromium-Cysteine ATP | N[C@@H](CS)C(=O)O.[Cr].P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | InChI=1S/C10H16N5O13P3.C3H7NO2S.Cr/c11-8-5-9(13-2-12-8)15(3-14-5)10-7(17)6(16)4(26-10)1-25-30(21,22)28-31(23,24)27-29(18,19)20;4-2(1-7)3(5)6;/h2-4,6-7,10,16-17H,1H2,(H,21,22)(H,23,24)(H2,11,12,13)(H2,18,19,20);2,7H,1,4H2,(H,5,6);/t4-,6-,7-,10-;2-;/m10./s1
